US05972975
A solution of 172 mg (0.87 mmol) of 4-chloro-2,2-dimethyl-(2H)-1,3-benzoxazine (K. Wachi and A. Terada, Chem. Pharm. Bull, 1980, 28, 465-472) and 215 mg (1.75 mmol) of 3-ethylpyridine N-oxide (S. Hibino and E. Sugino, J. Heterocycl Chem., 1990, 27, 175) in 1.6 mL of methylene chloride was heated to reflux for 9 h with stirring. After cooling the reaction, 30 mL ethyl acetate was added and the mixture was washed in succession with 10 mL saturated sodium bicarbonate and 10 mL of saturated aqueous sodium chloride. The organic solution was dried (sodium sulfate), decanted, and evaporated to give a yellow liquid. Flash column chromatography on 17 g of silica gel, eluting with 100 mL of 5% ethyl acetate/hexane and 500 mL of 7% ethyl acetate/hexane furnished 84 mg (33% yield) of 3-(5-ethyl-2-pyridinyl)-2,2-dimethyl-2,3-dihydro-(4H)-1,3-benzoxazin-4-one as a colorless syrup.

reactant | 4-chloro-2,2-dimethyl-(2H)-1,3-benzoxazine | 0.87 mmol, 172 mg | ClC1=NC(OC2=C1C=CC=C2)(C)C | C10H10ClNO
reactant | 3-ethylpyridine N-oxide | 1.75 mmol, 215 mg | C(C)C=1C=[N+](C=CC1)[O-] | C7H9NO
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 1.6 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-ethyl-2-pyridinyl)-2,2-dimethyl-2,3-dihydro-(4H)-1,3-benzoxazin-4-one | 84 mg, 33% yield | C(C)C=1C=CC(=NC1)N1C(OC2=C(C1=O)C=CC=C2)(C)C | C17H18N2O2
